US06891044B2
To a solution of 3-formyl-1H-indazole-6-carboxylic acid (1.6 g, 8.4 mmol) and 4-aminophenol (1.8 g, 16.8 mmol) in dry dimethylformamide (35 mL) was added HATU (3.8 g, 16.8 mmol) followed by triethylamine (1.4 mL, 10.1 mmol). The reaction was stirred at room and monitored by TLC and LC/MS. After two hours the reaction was complete. The solvent was removed by vacuum and the product was purified by flash column chromatography using ethyl acetate: petroleum ether 1:1 to pure ethyl acetate. N-4-Hydroxyphenyl)-3-formyl-1H-indazole-6-carboxamide was isolated as a tan colored solid. 1H NMR (DMSO-d4) δ 6.79 (2H, d, 8.9 Hz), 7.59 (2H, d, 8.9 Hz), 7.94 (1H, d, 9.8 Hz), 8.24 (1H, d, 8.2 Hz), 8.31 (1H, s), 9.31 (1H, br s), 10.27 (2H, s). MS (APCI pos) 282.1.

reactant | 3-formyl-1H-indazole-6-carboxylic acid | 8.4 mmol, 1.6 g | C(=O)C1=NNC2=CC(=CC=C12)C(=O)O | C9H6N2O3
reactant | 4-aminophenol | 16.8 mmol, 1.8 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | HATU | 16.8 mmol, 3.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 10.1 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | 3-formyl-1H-indazole-6-carboxamide | C(=O)C1=NNC2=CC(=CC=C12)C(=O)N | C9H7N3O2
